US07279600B2
4′-{[tert-Butyl(dimethyl)silyl]oxy}-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting 4-bromobenzaldehyde (730 mg, 3.97 mmol) with 4-tert-butyl-dimethylsilyoxyphenylboronic acid (1.3 g, 5.16 mmol) according to Method B to yield 600 mg (48%) of white crystal: 1H NMR (DMSO-d6): δ 0.24 (6H, s), 1.01 (9H, s), 6.94 (2H, d, J=8.54 Hz), 7.53 (2H, d, J=8.56 Hz), 7.72 (2H, d, J=8.19 Hz), 7.93 (2H, d, 8.20 Hz), 10.04 (1H, s).

reactant | 4-bromobenzaldehyde | 3.97 mmol, 730 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 4-tert-butyl-dimethylsilyoxyphenylboronic acid | 5.16 mmol, 1.3 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
product | 4′-{[tert-Butyl(dimethyl)silyl]oxy}-1,1′-biphenyl-4-carbaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C19H24O2Si
